US04950768
Preparation of Tetramethylene 1,1-Ethanedisulfonate
1,4-Butanediol, obtained from Aldrich Chemical Co. (3.6 g, 0.04 mole) was dissolved in 75 ml of glyme in a 1 liter round bottom flask. A solution of 1,1-ethanedisulfonyl chloride (9.1 g, 0.04 mole) dissolved in 25 ml of glyme wa added to the flask through a dropping funnel. The reaction mixture was kept below -20° C. with a dowanol-dry ice bath. Triethylamine (8.08 g, 0.08 mole) dissolved in 100 ml of glyme was added to the mixture through a 125 ml dropping funnel over a period of 1 hour. Care was taken to maintain anhydrous conditions by covering the dropping funnels with drying tubes containing CaCl2. The reaction mixture was brought to 25° C. in a cold water bath. The glyme was removed by roto-evaporation, at a temperature below 37° C. The oily yellow residue that remained after removal of the glyme was washed once with 100 ml of 5% sodium bicarbonate and once with 50 ml of cold distilled water, the resulting emulsion being centrifuged immediately to separate the product, and aqueous material decanted. The remaining precipitate was dried under vacuum. The white, powdery solid which remained weighed 0.90 g, representing a 9.2% yield. Product identification was confirmed by characteristic IR and proton NMR spectral features. The product decomposed between 115 and 138° C. The product was soluble to less than about 0.01 gram in 1 ml of either methylene chloride or acetonitrile.

reactant | 1,4-Butanediol | C(CCCO)O | C4H10O2
reactant | 1,1-ethanedisulfonyl chloride | 0.04 mole, 9.1 g | C(C)(S(=O)(=O)Cl)S(=O)(=O)Cl | C2H4Cl2O4S2
reactant | Triethylamine | 0.08 mole, 8.08 g | C(C)N(CC)CC | C6H15N
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | glyme | 75 ml | C(OC)COC | C4H10O2
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
solvent | glyme | 100 ml | C(OC)COC | C4H10O2
product | Tetramethylene 1,1-Ethanedisulfonate | 9.2% yield | C1(C)S(=O)(=O)OCCCCOS1(=O)=O | C6H12O6S2
